US08198456B2
To a solution of 4-(3-cyano-4-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile (1 eq), from Synthetic Example 1, in DMF was added either NaH or Cs2CO3 (1.2 eq) at 0° C. After 30 min, ethyl chloride was introduced. The reaction mixture was stirred at rt overnight, and quenched with brine. The reaction mixture was extracted with EtOAc, washed with brine, and dried. Concentration followed by flash chromatography gave 1-ethyl-4-(3-cyano-4-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile. 1H-NMR (400 MHz, DMSO-D6): δ=7.86 (dd, 1H), 7.69 (m, 1H), 7.55 (t, 1H), 4.57 (s, 1H), 3.12 (q, 2H), 2.1 (s, 6H), 1.4 (t, 3H) ppm.

reactant | 4-(3-cyano-4-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | 1 eq | C(#N)C=1C=C(C=CC1F)C1C(=C(NC(=C1C#N)C)C)C#N | C16H11FN4
reactant | NaH | [H-].[Na+]
reactant | Cs2CO3 | 1.2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl chloride | C(C)Cl | C2H5Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-ethyl-4-(3-cyano-4-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | C(C)N1C(=C(C(C(=C1C)C#N)C1=CC(=C(C=C1)F)C#N)C#N)C | C18H15FN4
